US08461328B2
A mixture of 1-benzenesulfonyl-4-chloro-5-nitro-1H-pyrrolo[2,3-b]pyridine (34.5 g, 102 mmol), 4-amino-1-benzyl piperidine (21.4 g, 112 mmol), diisopropylethylamine (245 ml, 143 mmol) in propan-2-ol (1 L) was heated at reflux for 2 hours. The mixture was concentrated under vacuum and the residues partitioned between ethyl acetate and water. The organics were washed with water, dried with sodium sulfate and concentrated under vacuum affording 52.1 g of (1-benzenesulfonyl-5-nitro-1H-pyrrolo[2,3-b]pyridin-4-yl)-(1-benzyl-piperidin-4-yl)amine as an orange residue which was used for the next step without further purification. 1H NMR (400 MHz, DMSO) δ: 9.10 (s, 1H), 8.19 (m, 2H), 7.63-7.58 (m, 2H), 7.51 (t, 3H), 7.33 (d, 4H), 6.69 (d, 1H), 4.00 (s, 1H), 3.57 (br s, 2H), 2.84 (br s, 2H), 2.31 (br s, 2H), 2.11 (s, 3H), 2.04 (s, 1H).

reactant | 1-benzenesulfonyl-4-chloro-5-nitro-1H-pyrrolo[2,3-b]pyridine | 102 mmol, 34.5 g | C1(=CC=CC=C1)S(=O)(=O)N1C=CC=2C1=NC=C(C2Cl)[N+](=O)[O-] | C13H8ClN3O4S
reactant | 4-amino-1-benzyl piperidine | 112 mmol, 21.4 g | NC1CCN(CC1)CC1=CC=CC=C1 | C12H18N2
reactant | diisopropylethylamine | 143 mmol, 245 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | propan-2-ol | 1 L | CC(C)O | C3H8O
product | (1-benzenesulfonyl-5-nitro-1H-pyrrolo[2,3-b]pyridin-4-yl)-(1-benzyl-piperidin-4-yl)amine | 52.1 g | C1(=CC=CC=C1)S(=O)(=O)N1C=CC=2C1=NC=C(C2NC2CCN(CC2)CC2=CC=CC=C2)[N+](=O)[O-] | C25H25N5O4S
